US07842696B2
DIPEA (247.2 mg, 0.33 mL, 1.9 mmol) was added to a stirred solution of 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (164.3 mg, 0.46 mmol) in DMF (2 mL). HOBT (63.1 mg, 0.46 mmol) and EDCI (179.2 mg, 0.93 mmol) were then added at room temperature. After 2 minutes, 4-imidazol-1-yl-benzoic acid (80 mg, 0.42 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using silica gel of 60-120 mesh and 50% EtOAc in Hexane as eluent) to afford 69 mg (33.4% yield) 4-imidazol-1-yl-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide. LCMS Purity: 94.26%. 1H NMR (DMSO-d6): δ 8.8-8.7 (s, 1H), 8.4 (s, 1H), 8.1-8.0 (d, 2H), 7.9-7.7 (m, 5H), 7.7-7.62 (m, 1H), 7.62-7.5 (t, 1H), 7.2-7.1 (s, 1H), 4.3-4.1 (d, 2H), 3.8-3.5 (m, 4H), 3.5-3.4 (m, 2H), 3.24-3.0 (m, 2H).

reactant | DIPEA | 1.9 mmol, 0.33 mL, 247.2 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.46 mmol, 164.3 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
reactant | HOBT | 0.46 mmol, 63.1 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.93 mmol, 179.2 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-imidazol-1-yl-benzoic acid | 0.42 mmol, 80 mg | N1(C=NC=C1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-imidazol-1-yl-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide | 69 mg, 33.4% yield | N1(C=NC=C1)C1=CC=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=C1 | C24H22F3N5O3
